US06191150B1
(2R,3S)-3-(Formyl-2-tetrahydropyranyloxyamino)-2-(2-methyl-1-propyl)hexanoic acid [(1S)-4-(nitroimino-amino)methylamino-1-(1,3-thiazol-2-ylcarbamoyl)-1-butyl]amide (166 mg) is dissolved in 2 mL 80% acetic acid and heated at 40° C. for 20 h. Concentration in vacuo and trituration in dichloromethane—ether provides (2R,3S)-3-(formyl-hydroxyamino)-2-(2-methyl-1-propyl)hexanoic acid [(1S)-4-(nitroimino-amino)methylamino-1-(1,3-thiazol-2-ylcarbamoyl)-1-butyl]amide as a solid (106 mg, 74%).

reactant | (2R,3S)-3-(Formyl-2-tetrahydropyranyloxyamino)-2-(2-methyl-1-propyl)hexanoic acid [(1S)-4-(nitroimino-amino)methylamino-1-(1,3-thiazol-2-ylcarbamoyl)-1-butyl]amide | 166 mg | [N+](=O)([O-])N=NCNCCC[C@@H](C(NC=1SC=CN1)=O)NC([C@@H]([C@H](CCC)N(OC1OCCCC1)C=O)CC(C)C)=O | C25H42N8O7S
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | (2R,3S)-3-(formyl-hydroxyamino)-2-(2-methyl-1-propyl)hexanoic acid [(1S)-4-(nitroimino-amino)methylamino-1-(1,3-thiazol-2-ylcarbamoyl)-1-butyl]amide | 106 mg, 74% | [N+](=O)([O-])N=NCNCCC[C@@H](C(NC=1SC=CN1)=O)NC([C@@H]([C@H](CCC)N(O)C=O)CC(C)C)=O | C20H34N8O6S
